US07884109B2
2-Chloro-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine.
To a suspension of 0.24 g of the hydrochloride salt of cis-3-methyl-tetrahydro-2H-pyran-4-amine (WO 2004/041161) and DIEA (1.5 mL) in THF (10 mL) at −78° C. was added 2,4-dichloro-5-nitropyrimidine (0.72 g). The mixture was allowed to slowly reach room temperature and stirred for 16 hours. The mixture was diluted with EtOAc and washed 3 times with brine. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo. Column chromatography (20→40% EtOAc/hexanes) provided 289 mg of the title compound.

reactant | cis-3-methyl-tetrahydro-2H-pyran-4-amine | C[C@@H]1COCC[C@@H]1N | C6H13NO
reactant | DIEA | 1.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloro-5-nitropyrimidine | 0.72 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Chloro-N-(cis-3-methyl-tetrahydro-2H-pyran-4-yl)-5-nitropyrimidin-4-amine | 289 mg | ClC1=NC=C(C(=N1)N[C@@H]1[C@@H](COCC1)C)[N+](=O)[O-] | C10H13ClN4O3
